US07855194B2
[6-Chloro-4-(2-fluoro-phenyl)-quinazolin-2-yl]-piperidin-4-yl-amine dihydrochloride
A solution of 4-[6-chloro-4-(2-fluoro-phenyl)-quinazolin-2-ylamino]-piperidine-1-carboxylic acid tert-butyl ester (0.66 g, 1.44 mmol) in ethanol (5 mL) and 4 M HCl in dioxane (20 mL) was stirred at rt for 2 h. The solvent was removed under reduced pressure and the crude product used in the consecutive step without further purification assuming quantitative deprotection and formation of the dihydrochloride salt. MS (ISP): 356.9 [M+H]+.

reactant | 4-[6-chloro-4-(2-fluoro-phenyl)-quinazolin-2-ylamino]-piperidine-1-carboxylic acid tert-butyl ester | 1.44 mmol, 0.66 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC2=CC=C(C=C2C(=N1)C1=C(C=CC=C1)F)Cl | C24H26ClFN4O2
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | HCl | 4 M | Cl | ClH
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | [6-Chloro-4-(2-fluoro-phenyl)-quinazolin-2-yl]-piperidin-4-yl-amine dihydrochloride | Cl.Cl.ClC=1C=C2C(=NC(=NC2=CC1)NC1CCNCC1)C1=C(C=CC=C1)F | InChI=1S/C19H18ClFN4.2ClH/c20-12-5-6-17-15(11-12)18(14-3-1-2-4-16(14)21)25-19(24-17)23-13-7-9-22-10-8-13;;/h1-6,11,13,22H,7-10H2,(H,23,24,25);2*1H
